US07592358B2
48.7e. 1-(2-{4-[5-(4-chloro-2-methylphenyl)pyrazin-2-ylethynyl]phenoxy}ethyl)-4-methylpiperidin-4-ol
The product was prepared analogously to Example 48.1c from 200 mg (0.88 mmol) of 2-(4-chloro-2-methylphenyl)-5-ethynylpyrazine and 316 mg (0.88 mmol) of 1-[2-(4-iodophenoxy)ethyl]-4-methylpiperidin-4-ol (IP 15) (stirring the reaction mixture overnight at RT). Yield: 30 mg (7% of theoretical); C27H28ClN3O2 (M=461.983); calc.: molpeak (M+H)+:462/464 (Cl); found: molpeak (M+H)+:462/464 (Cl); HPLC-MS: 5.43 minutes (method G; Zorbax-Bonus).

reactant | 2-(4-chloro-2-methylphenyl)-5-ethynylpyrazine | 0.88 mmol, 200 mg | ClC1=CC(=C(C=C1)C1=NC=C(N=C1)C#C)C | C13H9ClN2
reactant | 1-[2-(4-iodophenoxy)ethyl]-4-methylpiperidin-4-ol | 0.88 mmol, 316 mg | IC1=CC=C(OCCN2CCC(CC2)(O)C)C=C1 | C14H20INO2
product | 1-(2-{4-[5-(4-chloro-2-methylphenyl)pyrazin-2-ylethynyl]phenoxy}ethyl)-4-methylpiperidin-4-ol | ClC1=CC(=C(C=C1)C=1N=CC(=NC1)C#CC1=CC=C(OCCN2CCC(CC2)(O)C)C=C1)C | C27H28ClN3O2
